US06387911B1
To a solution of 2-(methylthio)-benzyl amine (160 mg, 1.04 mmol) in dichloromethane (3 mL) was added di-tert-butyl dicarbonate (273 mg, 1.25 mmol) and the reaction mixture was stirred at room 25° C. for 2 h. Concentration in vacuo provided crude N-Boc-2-(methylthio)-benzylamine which was used as is in the next step.

reactant | 2-(methylthio)-benzyl amine | 1.04 mmol, 160 mg | CSC1=C(CN)C=CC=C1 | C8H11NS
reactant | di-tert-butyl dicarbonate | 1.25 mmol, 273 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-Boc-2-(methylthio)-benzylamine | C(=O)(OC(C)(C)C)NCC1=C(C=CC=C1)SC | C13H19NO2S
